US03987116
5-Methoxynaphthalene-2-aldehyde (0.1 mole), malonic acid (0.2 moles), and dry pyridine (175 ml) are placed in a 1 1 round-bottom flask. The malonic acid is dissolved by shaking on a steam bath and piperidine (0.5 ml) is added. The reaction is allowed to take place on the steam bath for 4 hours. After standing at room temperature overnight, the mixture is refluxed for 1 hour and cooled. The reaction mixture is poured into 250 ml of ice water and acidified with concentrated hydrochloric acid (80 ml) with stirring. The product is collected by filtration, washed with water (4 × 150 ml) and air dried to give β-(5-methoxynaphth-2-yl)propenoic acid.

reactant | 5-Methoxynaphthalene-2-aldehyde | 0.1 mole | COC1=C2C=CC(=CC2=CC=C1)C=O | C12H10O2
reactant | malonic acid | 0.2 moles | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 80 ml | Cl | ClH
solvent | pyridine | 175 ml | N1=CC=CC=C1 | C5H5N
product | β-(5-methoxynaphth-2-yl)propenoic acid | COC1=C2C=CC(=CC2=CC=C1)C=CC(=O)O | C14H12O3
